US03997586
15.5 gm of sodium phenyl sulfinate and 1.5 gm of sodium carbonate were introduced into 80 cc of methanol. Then 25.6 gm of 1-bromo-3,3-diphenyl-2-propene were added to the reaction mixture under an atmosphere of nitrogen and at room temperature which was than agitated for 1 hour and 30 minutes. Next, the reaction mixture was poured into cold water and extracted with methylene chloride. The methylene chloride extracts were combined, washed with water, dried and concentrated to dryness. The residue was partly crystallized. The precipitate formed was isolated by vacuum filtering and dried to obtain 25.48 gm of (3,3-diphenyl-2-propenyl)-phenyl sulfone having a melting point of 104° C. A sample of this product, recrystallized from isopropyl ether, had a melting point of 106° C.

reactant | sodium phenyl sulfinate | 15.5 gm | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | sodium carbonate | 1.5 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanol | 80 cc | CO | CH4O
reactant | 1-bromo-3,3-diphenyl-2-propene | 25.6 gm | BrCC=C(C1=CC=CC=C1)C1=CC=CC=C1 | C15H13Br
solvent | water | O | H2O
product | (3,3-diphenyl-2-propenyl)-phenyl sulfone | 25.48 gm | C1(=CC=CC=C1)C(=CCS(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C21H18O2S
